US07855193B2
Tert-butyl 3-(6-(5-benzylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate (Step 5 in Scheme 6)
6-(5-benzylbenzofuran-2-yl)-1,2,3,4-tetrahydroisoquinoline (67 mg, 0.2 mmol) was dissolved in methanol (2 ml). DIEA (0.35 ml) and acrylic acid tert-butyl ester (51 mg, 0.4 mmol) were added. The mixture was headed to 90° C. for 30 minutes using microwave irradiation. All the solvents was evaporated and the crude product of tert-butyl 3-(6-(5-benzylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate was used in the next step without further purification. MS (ESI) m/z: Calculated: 467.25; Observed: 468.30 (M++1).

reactant | 6-(5-benzylbenzofuran-2-yl)-1,2,3,4-tetrahydroisoquinoline | 0.2 mmol, 67 mg | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C=2C=C3CCNCC3=CC2)C1 | C24H21NO
reactant | DIEA | 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acrylic acid tert-butyl ester | 0.4 mmol, 51 mg | C(C)(C)(C)OC(C=C)=O | C7H12O2
solvent | methanol | 2 ml | CO | CH4O
product | Tert-butyl 3-(6-(5-benzylbenzofuran-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)propanoate | C(C1=CC=CC=C1)C=1C=CC2=C(C=C(O2)C=2C=C3CCN(CC3=CC2)CCC(=O)OC(C)(C)C)C1 | C31H33NO3
